US07572792B2
[1-(diphenylmethyl)-3-morpholin-4-ylazetidin-3-yl]methyl}amine (1.00 g, 3.0 mmol) was dissolved in dichloromethane (10 ml) and di-tert-butyldicarbonate (0.71 g, 3.3 mmol) was added. This was followed by the dropwise addition of triethylamine (0.62 ml, 4.4 mmol). The reaction was stirred at room temperature overnight. The organics were washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness to give tert-butyl {[1-(diphenylmethyl)-3-morpholin-4-ylazetidin-3-yl]methyl}carbamate. tert-butyl {[1-(diphenylmethyl)-3-morpholin-4-ylazetidin-3-yl]methyl}carbamate (1.20 g, 2.7 mmol) and 20% palladium hydroxide on carbon (0.12 g) in methanol (20 ml) was hydrogenated on a parr at 45 psi for 2 days (complete conversion to product by 1c-ms). The resulting mixture was filtered and the filtercake washed with methanol. The methanol was evaporated to give tert-butyl [(3-morpholin-4-ylazetidin-3-yl)methyl]carbamate which was used without further purification. m/z (M++H) 272.

reactant | tert-butyl {[1-(diphenylmethyl)-3-morpholin-4-ylazetidin-3-yl]methyl}carbamate | 2.7 mmol, 1.20 g | C1(=CC=CC=C1)C(N1CC(C1)(N1CCOCC1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C26H35N3O3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.12 g | [OH-].[OH-].[Pd+2]
product | tert-butyl [(3-morpholin-4-ylazetidin-3-yl)methyl]carbamate | N1(CCOCC1)C1(CNC1)CNC(OC(C)(C)C)=O | C13H25N3O3
